US08026372B2
H-Lys(Boc)-OH
A solution of L-lysine monohydrochloride (20.0 g, 109.5 mmol) and benzotriazole (14.3 g, 120.0 mmol) in a mixture of water (66.6 mL) and THF (111.0 mL) at pH 12 was treated with t-butyl phenyl carbonate (24.3 mL, 131.4 mmol) and stirred 18 hours at 60° C. The mixture, initially 2 layers, became a clear orange solution and the product was approximately 75% (NMR).

reactant | L-lysine monohydrochloride | 109.5 mmol, 20.0 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | benzotriazole | 120.0 mmol, 14.3 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | t-butyl phenyl carbonate | 131.4 mmol, 24.3 mL | C(OC(C)(C)C)(OC1=CC=CC=C1)=O | C11H14O3
solvent | water | 66.6 mL | O | H2O
solvent | THF | 111.0 mL | C1CCOC1 | C4H8O
product | H-Lys(Boc)-OH | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C11H22N2O4
